US06482829B2
3-Acetyl-8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one
The title compound, MS: m/e=528.1 (M+H+), was prepared in accordance with the general method of example 99 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one and acetyl chloride.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one | FC(C=1C=C(C(=O)N2CCC3(CNC(N3C3=C(C=CC=C3)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C23H21F6N3O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 3-Acetyl-8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one | C(C)(=O)N1C(N(C2(C1)CCN(CC2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C2=C(C=CC=C2)C)=O | C25H23F6N3O3
